US04714619
N-Benzyloxycarbonyl-D-alanine 1-Adamantyl Ester (14)
N-Benzyloxycarbonyl-D-alanine (11.15 g, 50 mmol) was dissolved in 250 mL THF and treated with DCC (10.3 g, 50 mmol), 1-adamantanol (7.7 g, 51 mmol) and 1.45 g of 4-dimethylaminopyridine. The reaction mixture was stirred at room temperature. At the end of 24 hours, a few drops of HOAc was added and the reaction mixture was stirred for an additional 15 minutes. DCU was filtered off, the filtrate was evaporated to dryness under reduced pressure. The oily residue so obtained was dissolved in EtOAc and the solution was refrigerated overnight. More DCU was filtered off. The filtrate was then washed with 0.1N HCl (3×), H2O (3×), 0.1N NaOH (3×), H2O (3×) and dried over anhydrous Na2SO4. The solution was evaporated to dryness to give a clear oil. The oil was subjected to sublimation at 100°/0.1 mm for 5 hours. The oily residue was crystallized from hexane: mp 72°-74°, yield 11.6 g (75%), 250 MHz nmr (CDCl3, ppm) 1.37 (d, 3H, J=7.35 Hz, β--CH3 of Ala), 1.65 (s, 6H, adamantyl aliphatic protons of C's 4, 6 and 10), 2.09 (s, 6H, 1-adamantyl aliphatic protons of C's 2, 8 and 9), 2.16 (s, 3H, 1-adamantyl aliphatic protons of C's 3, 5 and 7), 4.23 (m, 1H, α--H of Ala), 5.09 (s, 2H, Ar--CH2 --O--), 5.32 (br.d, amide proton), 7.33 (s, 5H, ArH5).

reactant | N-Benzyloxycarbonyl-D-alanine | 50 mmol, 11.15 g | C(C1=CC=CC=C1)OC(=O)N[C@H](C)C(=O)O | C11H13NO4
reactant | DCC | 50 mmol, 10.3 g | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
reactant | 1-adamantanol | 51 mmol, 7.7 g | C12(CC3CC(CC(C1)C3)C2)O | C10H16O
solvent | THF | 250 mL | C1CCOC1 | C4H8O
catalyst | 4-dimethylaminopyridine | 1.45 g | CN(C1=CC=NC=C1)C | C7H10N2
catalyst | HOAc | a few drops | CC(=O)O | C2H4O2
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | N-Benzyloxycarbonyl-D-alanine 1-Adamantyl Ester | C12(CC3CC(CC(C1)C3)C2)OC([C@H](NC(=O)OCC2=CC=CC=C2)C)=O | C21H27NO4
